US07582775B2
Preparation of 5-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester
A solution of 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester (170 mg, 0.354 mmol)) in ethylene glycol (3.0 mL) is treated with BF3-Et2O (2.0 mL). The mixture is stirred at 90° C. for 6 h, cooled to RT, and quenched with water (50 mL). The mixture is extracted with EtOAc (2×20 mL), and the organic layer is concentrated and purified using silica gel column chromatography (10% EtOAc/Hex) to afford the product as an oil (94 mg, 51%).

reactant | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester | 0.354 mmol, 170 mg | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C29H36O4S
reactant | BF3 Et2O | 2.0 mL | B(F)(F)F.CCOCC
solvent | ethylene glycol | 3.0 mL | C(CO)O | C2H6O2
product | 5-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester | 94 mg, 51% | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC2(OCCO2)C(C)(C)C)C | C31H40O5S
